US04069038
N-allyl-N-butyl dichloroacetamide preparation
Ten and five-tenths grams of allyl-n-butyl amine hydrochloride was added to 100 ml. of methylene chloride followed by 14.5 g. of triethylamine. The mixture was stirred in a water bath at room temperature while 10.4 g. of dichloroacetyl chloride was added dropwise, and stirring was continued for 30 minutes after addition was complete. The mixture was washed and the solvent stripped under vacuum. Yield was 13 g., nD30 1.4603. The intermediate was used without further purification to prepare Compound No. 12 (Example VII).

reactant | allyl-n-butyl amine hydrochloride | Cl.C(C=C)NCCCC
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-allyl-N-butyl dichloroacetamide | C(C=C)N(C(C(Cl)Cl)=O)CCCC | C9H15Cl2NO
